US07723368B2
Step 1: Synthesis of 1-(4-(difluoromethoxy)phenyl)-2-(4-fluoro-3-(4-hydroxybut-1-ynyl)phenyl)ethane-1,2-dione
In a 0.5-2 ml Biotage conical microwave vial equipped with magnetic spin vane was dissolved 1-(3-Bromo-4-fluoro-phenyl)-2-(4-difluoromethoxy-phenyl)-ethane-1,2-dione (100 mg, 0.268 mmol) in triethylamine (1.25 mL). Copper iodide (10 mg, 0.052 mmol) and Tetrakis(triphenylphosphine) palladium (20 mg, 0.017 mmol) were added. Lastly But-3-yn-1-ol (100 mg, 1.04 mmol) was added, the vial was covered with a teflon septa, an aluminum cap was crimped in place, and the assembly was set on a Biotage Emrys microwave instrument to irradiate at 80° C. for one hour. The crude reaction was diluted with diethylether (60 mL), washed with saturated ammonium chloride (2×30 mL) and purified via column chromatography on a Yamazen W-Prep 2XY using a two-step automatic gradient elution: 100% hexanes (4 min) to 18% EtOAc (12 min), hold 4 min then to 80% EtOAc (16 min) hold 15 minutes. The resultant oil was placed under high vacuum overnight to afford 80 mgs of beige solid (82%).

reactant | 1-(3-Bromo-4-fluoro-phenyl)-2-(4-difluoromethoxy-phenyl)-ethane-1,2-dione | 0.268 mmol, 100 mg | BrC=1C=C(C=CC1F)C(C(=O)C1=CC=C(C=C1)OC(F)F)=O | C15H8BrF3O3
reactant | But-3-yn-1-ol | 1.04 mmol, 100 mg | C(CC#C)O | C4H6O
reactant | aluminum | [Al] | Al
solvent | triethylamine | 1.25 mL | C(C)N(CC)CC | C6H15N
solvent | diethylether | 60 mL | C(C)OCC | C4H10O
catalyst | Copper iodide | 0.052 mmol, 10 mg | [Cu](I)I
catalyst | Tetrakis(triphenylphosphine) palladium | 0.017 mmol, 20 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-(4-(difluoromethoxy)phenyl)-2-(4-fluoro-3-(4-hydroxybut-1-ynyl)phenyl)ethane-1,2-dione | 80 mgs, 82% | FC(OC1=CC=C(C=C1)C(C(=O)C1=CC(=C(C=C1)F)C#CCCO)=O)F | C19H13F3O4
